US06723735B1
A degassed mixture of trifluoromethanesulphonic acid 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenyl ester (82 mg, 0.2 mmol), potassium acetate (60 mg, 0.6 mmol), bis(pinacolato)diboron (60 mg, 0.24 mmol), 1,1′-bis(diphenylphosphino)ferrocene (6 mg) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (9 mg) in 1,4-dioxane (3.5 ml) was heated at 80° C. for 16 hours. On cooling, the reaction mixture was diluted with ethyl acetate (30 ml) and filtered. The filtrate was washed with water, brine, dried over anhydrous sodium sulphate, filtered through a pad of Florisil and evaporated to dryness to afford 6-(furan-3-yl)-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3H-imidazo[4,5-b]pyridine as a red-brown oil (85 mg). This was used without further purification; m/z (ES+) 388 (M++H).

reactant | trifluoromethanesulphonic acid 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenyl ester | 0.2 mmol, 82 mg | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C17H10F3N3O4S
reactant | potassium acetate | 0.6 mmol, 60 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.24 mmol, 60 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 6 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 9 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 6-(furan-3-yl)-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3H-imidazo[4,5-b]pyridine | 85 mg | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C22H22BN3O3
